USRE028939
Fifteen grams of cuprous cyanide and 14 g. of dry pyridine are heated to a homogeneous melt. After adding 25.0 g. of 4-fluoro-2-iodoaniline, the mixture is heated at about 160°-170° C. for two hours. To the cooled mixture, concentrated sodium cyanide solution is added. The solid material is filtered off and extracted with benzene. The benzene extracts are concentrated and fractionally distilled to give 2-cyano-4-fluoroaniline.

reactant | 4-fluoro-2-iodoaniline | FC1=CC(=C(N)C=C1)I | C6H5FIN
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-cyano-4-fluoroaniline | C(#N)C1=C(N)C=CC(=C1)F | C7H5FN2
